US05405851
A mixture of N-(1,2,5,6-tetrahydro-9-methoxy-1-oxobenzo[f]quinazolin-3-yl)pivalamide (0.93 g, 2.84 mmoles) and 2,3-dichloro-5,6-dicyano- 1,4-benzoquinone (0.8 g, 3.5 mmoles) in dry benzene (60 ml) was refluxed under a nitrogen atmosphere for 3 hours. After cooling, benzene was removed under reduced pressure and the residue was purified on a silica gel column eluting with chloroform to give N-(1,2-dihydro-9-methoxy-1-oxobenzo[f]quinazolin-3-yl)pivalamide (0.9 g).

reactant | N-(1,2,5,6-tetrahydro-9-methoxy-1-oxobenzo[f]quinazolin-3-yl)pivalamide | 2.84 mmoles, 0.93 g | COC=1C=CC2=C(C=3C(NC(=NC3CC2)NC(C(C)(C)C)=O)=O)C1 | C18H21N3O3
reactant | 2,3-dichloro-5,6-dicyano- 1,4-benzoquinone | 3.5 mmoles, 0.8 g | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
solvent | benzene | 60 ml | C1=CC=CC=C1 | C6H6
product | N-(1,2-dihydro-9-methoxy-1-oxobenzo[f]quinazolin-3-yl)pivalamide | 0.9 g | COC=1C=CC2=C(C=3C(NC(=NC3C=C2)NC(C(C)(C)C)=O)=O)C1 | C18H19N3O3
